US05888694
3-Chloropropylamine hydrochloride (13.0 g) and 15.5 g of 4-phenylpyridine were dissolved in dimethylacetamido and heated at 70° C. for 5 hours. Ethyl acetate was added thereto and the precipitated crystals were collected by filtration to obtain 17.5 g of 3-(4-phenylpyridyl)propylamine hydrochloride.

reactant | 3-Chloropropylamine hydrochloride | 13.0 g | Cl.ClCCCN
reactant | 4-phenylpyridine | 15.5 g | C1(=CC=CC=C1)C1=CC=NC=C1 | C11H9N
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-phenylpyridyl)propylamine hydrochloride | 17.5 g | Cl.C1(=CC=CC=C1)C1=CC(=NC=C1)CCCN | InChI=1S/C14H16N2.ClH/c15-9-4-7-14-11-13(8-10-16-14)12-5-2-1-3-6-12;/h1-3,5-6,8,10-11H,4,7,9,15H2;1H
